US04721794
5-(3-acetyloxypropanesulfonyl)thiophene-2-sulfonamide
To a solution of 5-(3-hydroxypropanesulfonyl)thiophene-2-sulfonamide (1.2 g, 4.2 mmol) in 75 ml of THF was added 0.5 ml of pyridine and 0.5 ml of acetyl chloride. The reaction mixture was stirred for 18 hours at room temperature. The reaction mixture was filtered and the filtrate was concentrated under vacuum. The oily residue was dissolved in ethyl acetate and the ethyl acetate was washed with aqueous sodium bicarbonate solution and then brine. After drying over sodium sulfate the ethyl acetate was concentrated under vacuum, giving a solid residue. This solid was recrystallized from dichloroethane to give 1.0 g of product; m.p. 103°-104.5°. 1H-NMR,δ (DMSO, d6) 7.97 (2H, S); 7.75 (1H, d, J=3); 7.57 (lH, d, J=3); 4.00 (2H, t, J=6); 3.50 (2H, m); 1.90 (5H, m).

reactant | 5-(3-hydroxypropanesulfonyl)thiophene-2-sulfonamide | 4.2 mmol, 1.2 g | OCCCS(=O)(=O)C1=CC=C(S1)S(=O)(=O)N | C7H11NO5S3
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 5-(3-acetyloxypropanesulfonyl)thiophene-2-sulfonamide | 1.0 g | C(C)(=O)OCCCS(=O)(=O)C1=CC=C(S1)S(=O)(=O)N | C9H13NO6S3
